US08975250B2
20.1: Ethyl 2-methylsulfanyl-4-phenylamino-5-pyrimidinecarboxylate
To a solution of 5.0 g (21.49 mmol) of ethyl 4-chloro-2-methylsulfanyl-5-pyrimidinecarboxylate and 4.9 mL (53.72 mmol) of aniline in 75 mL of THF are added 7.49 mL (53.72 mmol) of triethylamine. The mixture is stirred at room temperature overnight. After evaporating off the THF, aqueous 1N HCl solution is added and the mixture is extracted with ethyl acetate. The organic phase is washed with saturated aqueous NaHCO3 solution and then with NaCl solution. The organic phase is dried over MgSO4. After filtering, the filtrate is concentrated to give 3.99 g of the expected product in the form of a beige-coloured solid, which is used as obtained in the following step. Yield=64%.

reactant | ethyl 4-chloro-2-methylsulfanyl-5-pyrimidinecarboxylate | 21.49 mmol, 5.0 g | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
reactant | aniline | 53.72 mmol, 4.9 mL | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 53.72 mmol, 7.49 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | Ethyl 2-methylsulfanyl-4-phenylamino-5-pyrimidinecarboxylate | 3.99 g, Yield=64% | CSC1=NC=C(C(=N1)NC1=CC=CC=C1)C(=O)OCC | C14H15N3O2S
